US04396542
(2S,3R)-2-benzoyloxy-1,4-dibenzyloxy-3-bromobutane: flow-chart 2 , formula XVI [X' and X"=φ-CH2 -].
10.9 g (61.2 mMol) N-bromosuccinimide are suspended in 150 ml tetrachloromethane, the suspension cooled to 4° C. and 23.9 g (61.2 mMol) of (4S,5S)-4,5-dibenzyloxymethyl-2-phenyl-1,3-dioxolan dissolved in 250 ml tetrachloromethane added dropwise at the same temperature over a period of 50 minutes. The cooling bath is removed, the reaction flask wrapped in aluminium foil and the reaction mixture stirred for 3 days at room temperature. The obtained orange coloured suspension is diluted with 1 liter methylene chloride and shaken with 200 ml saturated sodium bicarbonate solution. The aqueous phase is extracted with 300 ml methylene chloride and the combined organic phases are dried over sodium sulfate, filtered through a layer of talc and evaporated under vacuum. The residue is chromatographed using 1 kg of silica gel 60 and methylene chloride as eluant. The title compound is obtained as a colourless oil: rotation, [α]D22 =+18.7°, (c=1.3 in chloroform).

reactant | N-bromosuccinimide | 61.2 mMol, 10.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (4S,5S)-4,5-dibenzyloxymethyl-2-phenyl-1,3-dioxolan | 61.2 mMol, 23.9 g | C(C1=CC=CC=C1)OC[C@@H]1OC(O[C@H]1COCC1=CC=CC=C1)C1=CC=CC=C1 | C25H26O4
solvent | tetrachloromethane | 150 ml | ClC(Cl)(Cl)Cl | CCl4
solvent | tetrachloromethane | 250 ml | ClC(Cl)(Cl)Cl | CCl4
product | (2S,3R)-2-benzoyloxy-1,4-dibenzyloxy-3-bromobutane | C(C1=CC=CC=C1)(=O)O[C@@H](COCC1=CC=CC=C1)[C@@H](COCC1=CC=CC=C1)Br | C25H25BrO4
